US07645753B2
N-{2-[1-(3-Ethoxy-4-methoxy-benzyl)-piperidin-4-ylamino]-benzooxazol-5-yl}-acetamide
To a solution of N2-[1-(3-ethoxy-4-methoxy-benzyl)-piperidin-4-yl]-benzooxazole-2,5-diamine (39.8 mg, 0.1 mmol, 1.0 equiv) and acetyl chloride (0.009 mL, 7.9 mg, 0.1 mmol, 1.0 equiv) in anhydrous DMF (1 mL) was added diisopropylethylamine (23.4 μL, 25.9 mg, 0.2 mmol, 2.0 equiv) and the mixture stirred at 100° C. over night. Removal of the solvent under reduced pressure and purification by preparative HPLC on reversed phase eluting with a gradient of acetonitrile/water provided 8.1 mg (19%) of the title compound. MS (ESI): 439.5 [M+H]+.

reactant | N2-[1-(3-ethoxy-4-methoxy-benzyl)-piperidin-4-yl]-benzooxazole-2,5-diamine | 0.1 mmol, 39.8 mg, 1.0 equiv | C(C)OC=1C=C(CN2CCC(CC2)NC=2OC3=C(N2)C=C(C=C3)N)C=CC1OC | C22H28N4O3
reactant | acetyl chloride | 0.1 mmol, 0.009 mL, 7.9 mg, 1.0 equiv | C(C)(=O)Cl | C2H3ClO
reactant | diisopropylethylamine | 0.2 mmol, 23.4 μL, 25.9 mg, 2.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{2-[1-(3-Ethoxy-4-methoxy-benzyl)-piperidin-4-ylamino]-benzooxazol-5-yl}-acetamide | 8.1 mg, 19% | C(C)OC=1C=C(CN2CCC(CC2)NC=2OC3=C(N2)C=C(C=C3)NC(C)=O)C=CC1OC | C24H30N4O4
